US07776897B2
DMF (a catalytic amount) was added to a thionyl chloride (15 ml) solution of 1-(3-chloro-4-methyl-2-thienyl)cyclopentanecarboxylic acid (1.59 g), followed by stirring at 75° C. for 30 minutes. The reaction solution was subjected to evaporation under reduced pressure to obtain 1-(3-chloro-4-methyl-2-thienyl)cyclopentanecarbonyl chloride. A THF (20 ml) solution of 1-(3-chloro-4-methyl-2-thienyl)cyclopentanecarbonyl chloride was added dropwise to a THF (20 ml) solution of hydrazine monohydrate (12.6 ml) at 0° C., followed by stirring at 0° C. for 3 hours. After the reaction solution and chloroform were added to a saturated aqueous sodium hydrogen carbonate solution, the organic layer was separated. The organic layer washed with brine and, after drying over anhydrous sodium sulfate and filtration, the solvent was removed by evaporation under reduced pressure to obtain 1.65 g of 1-(3-chloro-4-methyl-2-thienyl)cyclopentanecarbohydrazide (pale yellow solid).

reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(3-chloro-4-methyl-2-thienyl)cyclopentanecarboxylic acid | 1.59 g | ClC1=C(SC=C1C)C1(CCCC1)C(=O)O | C11H13ClO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(3-chloro-4-methyl-2-thienyl)cyclopentanecarbonyl chloride | ClC1=C(SC=C1C)C1(CCCC1)C(=O)Cl | C11H12Cl2OS
